US04863482
Preparation of 2-methylamino-6-(β-methoxyethyl)amino-4-methoxynitrobenzene
0.019 mole (5 g) of 2-methylamino-6-(β-methoxyethyl)amino-4-chloronitrobenzene was refluxed with 35 ml of 26% sodium methylate in methanol for 45 minutes then diluted with 100 ml of ice water to precipitate the desired product. Following filtering, water washing and drying under vacuum in the presence of P2O5, the product obtained was recrystallized from isopropanol. It melted at 84° C.

reactant | 2-methylamino-6-(β-methoxyethyl)amino-4-chloronitrobenzene | 0.019 mole, 5 g | CNC1=C(C(=CC(=C1)Cl)NCCOC)[N+](=O)[O-] | C10H14ClN3O3
reactant | sodium methylate | 35 ml | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 2-methylamino-6-(β-methoxyethyl)amino-4-methoxynitrobenzene | CNC1=C(C(=CC(=C1)OC)NCCOC)[N+](=O)[O-] | C11H17N3O4
